US08461328B2
A suspension of (R)-3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (9.90 g, 20.3 mmol) and palladium on carbon (1.0 g, 10%, wet, Degussa, E101 NE/W) in a 4:1 mixture of THF and EtOH (150 ml) was stirred under a hydrogen atmosphere (2 balloons) at 50° C. for 18 h. The reaction mixture was cooled to 25° C. and was filtered through Celite. The Celite was washed with THF (1×20 ml), and the combined filtrate and washings were concentrated under reduced pressure to give (R)-3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (9.81 g, 99%) as a brown foam. LCMS (Method G, ESI): RT=0.83 min, m+H=458.3. This material was used in the next step below without additional purification or characterization.

reactant | (R)-3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 20.3 mmol, 9.90 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H25N5O6S
reactant | THF | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | EtOH | 150 ml | CCO | C2H6O
product | (R)-3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 9.81 g, 99% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H27N5O4S
